US07119207B2
(1S,2S,5R) or (1R,2R,5S) 1-Phenyl-8-aza-bicyclo[3.2.1]oct-2-ylamine
To a 25 ml round bottom flask equipped with nitrogen inlet and condenser was placed 37 mg (0.127 mmol) of either the (1S,2S,5R) (or the (1R,2R,5S)) 8-Benzyl-1-phenyl-8-aza-bicyclo[3.2.1]oct-2-ylamine together with 10 ml of methanol, 80 mg (1.27 mmol) ammonium formate and 12 mg palladium hydroxide. The reaction mixture was treated with 21 ul of conc aq HCl and then heated under reflux for 40 mins and then cooled to room temperature. The suspension was filtered through a bed of celite which was then washed with methanol. The combined organics were evaporated in vacuo and the residue was taken up in chloroform and partitioned with saturated aqueous bicarbonate solution. The organics were washed with saturated brine solution and then dried over a bed of sodium sulfate. The mixture was filtered and the filtrate evaporated in vacuo to afford 20 mg of the desired (1S,2S,5R) (or the (1R,2R,5S)) diamine. 1H NMR (CDCl3, 400 MHz) δ 7.31–7.16 (br.m., 5H), 3.64–3.63 (br.s., 1H), 2.95 (dd, 1H, J=5 Hz, J=2 Hz), 2.25–2.19 (br.m., 1H), 2.03–1.89 (br.m., 2H), 1.87–1.78 (br.m, 5H), 1.72–1.66 (br.m., 1H), 1.54–1.49 (br.m., 1H), 1.33–1.28 (br.m., 1H) ppm. Mass spectrum APCI m/z 203 (p+1).

reactant | 8-Benzyl-1-phenyl-8-aza-bicyclo[3.2.1]oct-2-ylamine | C(C1=CC=CC=C1)N1C2(C(CCC1CC2)N)C2=CC=CC=C2 | C20H24N2
reactant | ammonium formate | 1.27 mmol, 80 mg | C(=O)[O-].[NH4+]
reactant | HCl | 21 ul | Cl | ClH
catalyst | palladium hydroxide | 12 mg | [OH-].[Pd+2].[OH-]
solvent | methanol | 10 ml | CO | CH4O
product | (1R,2R,5S) 1-Phenyl-8-aza-bicyclo[3.2.1]oct-2-ylamine | C1(=CC=CC=C1)[C@@]12[C@@H](CC[C@@H](CC1)N2)N | C13H18N2
